US05213975
3.4 g of (-)-(2S,3R)-1-propionyloxy-2,3-epoxy-8-methylnonane was hydrolyzed with potassium hydroxide/methanol to yield 2.4 g of (-)-(2S,3R)-2,3-epoxy-8-methyl-1-nonanol.

reactant | (-)-(2S,3R)-1-propionyloxy-2,3-epoxy-8-methylnonane | 3.4 g | C(CC)(=O)OC[C@H]1[C@@H](CCCCC(C)C)O1 | C13H24O3
reactant | potassium hydroxide methanol | [OH-].[K+].CO
product | (-)-(2S,3R)-2,3-epoxy-8-methyl-1-nonanol | 2.4 g | O1[C@@H](CO)[C@H]1CCCCC(C)C | C10H20O2
